Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
amoxicillin
 
Attending: ___
 
Chief Complaint:
"I fainted yesterday."

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old female student at ___ with history of depression who self-presents to the 
___
ED after episode of fainting yesterday, with worsening 
depression
and suicidal ideation with plan to jump off of a building or
bridge. Psychiatry was consulted for diagnostic clarification 
and
treatment recommendation.

Patient states that she came into the hospital because she
fainted yesterday and has been really nauseous and dizzy since
then with loss of appetite. States that she has a history of
fainting, but the last time was the beginning on ___. 
States
that she has been medically worked up for this at ___ in ___ (Holter monitor, gall bladder scan ___
not eating), states that everything was normal. Patient states
that it hasn't been comprehensive because she has psychological
problems that they haven't addressed. Also states that she 
hasn't
been able to get her birth control because of an insurance
problem (last took it 1.5 weeks ago) and that it stabilizes her
mood. States that she has started to feel less stable in the 
past
when she hasn't taken it. Also identifies graduating from school
in ___ as a stressor, because she is having trouble in school
(now getting b's and always has gotten a's in the past). Also
mentions that she doesn't think she'll graduate because she 
feels
like she won't even be alive by then. States that her mom thinks
she should not continue with school right now because she isn't
doing well mentally, but she states that she just wants to
graduate. States that this week she hasn't taken her lexapro or
trazodone because if she's not taking her birth control then her
mood is unstable anyway.

Endorses worsening depressed mood, greatly decreased sleep (3
hours per night, often with nightmares, wakes up not feeling
rested, naps during day), decreased appetite and PO intake with
subjective 10 pound weight loss over past 2 months, difficulty
concentrating, amotivation, and anhedonia. Endorses feeling
hopeless and helpless. States that she has been having woresning
nightmares that she is being raped, only when she is sleeping
naked or when she sleeps in the middle of the bed. Denies
flashbacks or re-experiencing. Endorses active suicidal 
ideation,
with plan to jump from a tall building or bridge. Denies
homicidal ideation. States that she purposely burned herself 
with
a lighter and a paperclip on her ankle about one month ago.
Denies any auditory or hallucinations. Denies any symptoms of
mania. Endorses "really high" anxiety, states that "even when I
sit still, my body is like vibrating."

Collateral from ___ mom:
She states that they have been very open about her depression,
that she has a brain injury and have been very open about that
too. States that she is upset with her daughter because the
contract is that if she feels like she is going to hurt herself
then she is supposed to call her, and she didn't. States that 
the
last time she saw her was 2 weeks ago, and she was normal and
relaxed. States that she does sleep a lot and eats ravenously
because she is gluten-free and the only safe place to eat is at
home, and she has her on a schedule to make up on sleep that she
usually misses. States that the depression has gotten worse 
since
then, that she called and told her that she had a stomachache 
and
that patient thought it was from the depression and that that's
why she decided to go to the ER. States that she goes through
phases of not wanting to be alive, that she has made comments
about being overwhelmed by life and by her difficulty making
friends, as well as by being over-tired. States that she spoke
with her insurance and that it should be kicking in tomorrow.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Diagnoses: depression
Hospitalizations: denies
Current treaters and treatment: no current or past psychiatrist,
sees a counselor at her college ___), has been
seeing her since ___ every week, ___ and ECT trials: Lexapro, trazodone
Self-injury: burned herself once one month ago and a few times
last year, states that she cut herself once
Suicide attempts: denies
Harm to others: denies
Access to weapons: denies
Trauma: states that she had scar tissue covering her hymen which
required surgery, that there is nerve damage inside her vagina
and that she cannot have sex, that the surgeon told her that she
was likely raped as a child but she does not remember 

PAST MEDICAL HISTORY:
"Chronic ___ until age ___
"Chronic pneumonia" every ___ months until about ___ years ago

 
Social History:
___
Family History:
States that she thinks her mom has depression but she doesn't
talk about it. Denies any suicides. States that there is
alcoholism on her mom's side.
 
Physical Exam:
EXAM: 
*VS:  BP: 120/81  HR: 80 temp: 98.0 resp: 16 O2 sat:100% RA
**Orthostatic vitals from laying down to sitting**

Neurological:  
 *station and gait: within normal limits
 *tone and strength: moving all extremities against gravity

Cognition: 
 Wakefulness/alertness: alert, awake
 *Attention (digit span, MOYB): slowly states MOYB correctly
 *Orientation: AAOx3
 *Memory:  ___ registration, ___ recall
 *Fund of knowledge:  knows current president, as well as 
someone
running for president
 Calculations:  7 quarters in 1.75
 Abstraction: correctly describes "don't 
 *Speech: normal rate, volume, prosody
 *Language: fluent ___
 
Mental Status:
 *Appearance:  moderately groomed young female lying in bed in
hospital gown, tired-appearing
 Behavior: cooperative with interview, at times nervously 
laughs,
minimal eye contact
 *Mood and Affect: "tired" affect is congruent, dysphoric
 *Thought process / *associations:  linear, goal-directed
 *Thought Content: +active SI with plan, denies HI, denies AVH
 *Judgment and Insight:  limited/limited

 
Pertinent Results:
___ 05:25PM URINE  HOURS-RANDOM
___ 05:25PM URINE  HOURS-RANDOM
___ 05:25PM URINE  UCG-NEGATIVE
___ 05:25PM URINE  GR HOLD-HOLD
___ 05:25PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:25PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 04:45PM   GLUCOSE-88 UREA N-10 CREAT-0.7 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-24 ANION GAP-17
___ 04:45PM   estGFR-Using this
___ 04:45PM   ALT(SGPT)-17 AST(SGOT)-21 ALK PHOS-62 TOT 
BILI-0.4
___ 04:45PM   LIPASE-36
___ 04:45PM   ALBUMIN-4.7 CALCIUM-10.4* PHOSPHATE-3.9 
MAGNESIUM-1.8
___ 04:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:45PM   WBC-8.0 RBC-4.95 HGB-15.0 HCT-43.7 MCV-88 
MCH-30.3 MCHC-34.3 RDW-12.5 RDWSD-40.4
___ 04:45PM   NEUTS-53.6 ___ MONOS-8.6 EOS-1.5 
BASOS-0.4 IM ___ AbsNeut-4.29 AbsLymp-2.84 AbsMono-0.69 
AbsEos-0.12 AbsBaso-0.03
___ 04:45PM   PLT COUNT-305
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 

remained here on that level of observation throughout.  He was 
unit-restricted.  There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:
# Depression: ___ self-presented to the ___ ED after 
episode of fainting the day prior. She endorsed worsening 
depression and suicidal ideation with plan to jump off of a 
building or bridge to ED staff.

Her depressive sx including depressed mood, decreased sleep (3 
hours per night, often with nightmares, decreased appetite and 
PO intake with subjective 10 pound weight loss over past 2 
months, difficulty concentrating, amotivation, and anhedonia. 
She also endorsed feeling hopeless and helpless. Worsening 
depression occurred in the context of self d/c Lexipro and 
Trazodone d/t insurance issues. Primary life stressor was 
academic stress and concern of not graduating on time. 

Patient was restarted on Lexapro on ___ and maintained on 
this dose until admission. Her mother changed ___ 
insurance to ___ to avoid further issues with prescription 
medications. Her mother also agreed to arrange outpatient 
psychiatric follow up once ___ insurance took effect on ___. Of note, Trazodone was initially restarted at 50 mg qhs 
for difficulty with sleep, but was reduced to 25mg and switched 
to prn basis d/t over sedation. She was not discharged with 
Trazodone prescription out of caution given team did not want 
patient to become dependent on medication for sleep.

GENERAL MEDICAL CONDITIONS:
#Poor PO intake. Patient had several weeks of poor po intake 
which resulted in fainting spells. She had complete w/u of 
fainting at an OSH and fainting was attributed to poor po 
intake. Patient denied intentional food restricting or purging, 
but noted gluten allergy and busy schedule as barriers to eating 
regularly and sufficiently. While on the unit, she ate most 
meals and maintained a healthy weight. She did planning around 
meal planning with her mother who agreed to assist with meal 
prep and after discharge. 

PSYCHOSOCIAL:
#) GROUPS/MILIEU:
Patient was a very regular and active participant in groups. She 
demonstrated great insight and motivation around getting better. 
She was social with peers, and formed bonds with her roommate 
and other similar aged peers on the unit. There were not acute 
safety concerns or behavioral issues while on the unit. 

#) COLLATERAL CONTACTS:
___ therapist at ___, Ms. ___ 
and ___ mother were contacted for collateral information.

#) FAMILY INVOLVEMENT:
___ met with patient and her parents. Family was educated about 
the extent of her depression and how many of her behaviors at 
school and home are a reflection of
this. Also discussed some of her issues around food and poor 
sleep and how patients depression results in her making less 
healthy choices which can lead to a spiral downhill. Discussed 
patients difficulty accessing services. Mother has already 
talked to ___ and effective ___, patient will have 
___ and will transfer her primary care and 
psychiatric follow-up to ___ in ___. ___ 
also discussed what support patient may need after discharge
until she returns to school ___. Unfortunately there 
are no partial hospital programs in her area, But family is 
aware of ___ in ___ and ___ 
___ should patient going to crisis.
Parents were supportive of patients discharged ___. 

#) INTERVENTIONS:
Family Meeting
Restarted antidepressant medications
Therapy

INFORMED CONSENT:
No new medications were started this admission.

RISK ASSESSMENT:

#) Chronic/Static Risk Factors:
- Age
- Chronic depression
- Hx of self injurious behaviors
- Hx of trauma

#) Modifiable Risk Factors:
- Depressed mood- We mitigated this by providing therapy and 
restarting antidepressant medications.

#) Protective Factors:
- Family support
- Gender
- Education
- Outpatient treaters

PROGNOSIS: Good, given patient has strong supports from family 
and outpatient treaters. She is smart and motivated around 
continued treatment.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 20 mg PO DAILY 
2. TraZODone 50 mg PO QHS:PRN sleep 
3. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing/SOB 
4. Seasonique (L norgest/e.estradiol-e.estrad) 0.15 mg-30 mcg 
(84)/10 mcg (7) oral DAILY 
5. Montelukast 10 mg PO DAILY 

 
Discharge Medications:
1. Escitalopram Oxalate 20 mg PO DAILY 
RX *escitalopram oxalate 20 mg 1 tablet(s) by mouth qam Disp 
#*30 Tablet Refills:*0
2. Seasonique (L norgest/e.estradiol-e.estrad) 0.15 mg-30 mcg 
(84)/10 mcg (7) oral DAILY 
RX *L norgest/e.estradiol-e.estrad [Seasonique] 0.15 mg-30 mcg 
(84)/10 mcg (7) 1 tablets(s) by mouth daily Disp #*90 Dose Pack 
Refills:*0
3. TraZODone 25 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0
4. Mirtazapine 30 mg PO QHS 
RX *mirtazapine 30 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0
5. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing/SOB 
6. Montelukast 10 mg PO DAILY 
RX *montelukast [Singulair] 10 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depression

 
Discharge Condition:
VS wnl 
*Appearance: casual and clean.
  Behavior: cooperative, good eye contact, connected with team
members.
  Speech: clear and fluent
  *Mood and Affect: 'much better' /euthymic  
*Thought process: linear, coherent
  *Thought Content: Future oriented, discussed benefits of
hospitalization and what she has learned here. Discussed 
feelings
around managing responsibilities. Did not endorse SI, HI/AVH
  *Judgment and Insight: moderately good.
*Ambulatory

 
Discharge Instructions:
You were hospitalized at ___ for depression and suicidal 
thoughts.  We restarted your medications, and you are now ready 
for discharge and continued treatment with your outpatient 
providers.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
- Please practice safe sex.
- Please contact your outpatient psychiatrist or other providers 

if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___